*****************************************************************
* NXP BUK9Y113-100E
*
* Polarity N-Channel
* Ratings 100V/1.130000E-001OHMS/12.0167678282393A
*
* Date Created Tue Feb 05 06:57:16 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y113-100E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.090304217438052 TC=0.005599286208044,3.36111943160751E-05
RBD 9 4 0.00473165967768375 TC=0.005599286208044,3.36111943160751E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 5.9e-10
RG 1 2 2.24663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	728.906
+ -16	728.336
+ -10	726.146
+ -5	720.286
+ -4	717.028
+ -3	709.215
+ -2	654.144
+ -1	465.735
+ -0.5	352.509
+ -0.2	272.036
+ -0.1	269.762
+ 0	212.19774
+ 0.1	162.70892
+ 0.2	162.51096
+ 0.5	137.45084
+ 1	119.98344
+ 2	100.33119
+ 3	91.4541
+ 4	85.54402
+ 5	80.58228
+ 6	76.66814
+ 8	70.95295
+ 10	66.85115
+ 12	63.63462
+ 15	59.83468
+ 16	58.70713
+ 20	55.12925
+ 25	51.64766
+ 30	48.93072
+ 50	42.15618



.MODEL MINT NMOS(Vto=1.93652179756499 Kp=5.060260e+001 Nfs=330000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=1.35698304694587e-13
+ N=1 M=0.56 VJ=0.51 Fc=0.5 Cjo=1.413526e-10 Tt=1.7816e-08)

.ENDS

